US04816474
Sodium hydroxide solution (50%, 700 ml) is added in portions to a mixture of 114.65 g of 5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride, 940 g of n-propyl iodide and 18.3 g of tetra-n-butylammonium bromide in 700 ml of toluene. The reaction mixture is heated under reflux at 100° for 20 hours. The organic layer is separated and the aqueous phase is extracted with 300 ml of toluene. The combined toluene extracts are washed with water dried and concentrated under vacuo (so as to remove any remaining n-propyl iodide). The residue is then distilled under high vacuum to obtain N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine, b.p. 155°/0.5 mm Hg.

reactant | Sodium hydroxide | 700 ml | [OH-].[Na+]
reactant | 5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride | 114.65 g | Cl.S1C=CC2=C1SCC(C2)N
reactant | n-propyl iodide | 940 g | C(CC)I | C3H7I
reactant | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 18.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N,N-dipropyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine | C(CC)N(C1CC2=C(SC1)SC=C2)CCC | C13H21NS2
